US06320050B1
A solution of diisopropylamine (13.36 mL, 101.89 mmol) in tetrahydrofuran (250 mL) was cooled to −78° C. under a nitrogen atmosphere and then treated with a 2.0 M solution of n-butyllithium in hexanes (51 mL, 101.89 mmol). The reaction mixture was stirred at −78° C. for 15 min, at which time, a solution of 3,4-dichlorophenyl acetic acid (9.08 g, 44.3 mmol) in tetrahydrofuran (60 mL) and hexamethylphosphoramide (20 mL) was slowly added via a cannula. The bright yellow solution was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (11.17 g, 53.2 mmol) in hexamethylphosphoramide (10 mL) was added via a cannula. The reaction mixture was stirred at −78° C. for 1 h. The reaction mixture was then allowed to warm to 25° C., where it was stirred for 14 h. The reaction mixture was then acidified to pH=2 by the dropwise addition of a 1 N aqueous hydrochloric acid solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, chloroform then 99/1 chloroform/methanol) afforded 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid (10.28 g, 81%) as a white solid: mp 74.5-76.9° C.; EI-HRMS m/e calcd for C14H16Cl2O2 (M+) 286.0527, found 286.0534.

reactant | diisopropylamine | 101.89 mmol, 13.36 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,4-dichlorophenyl acetic acid | 44.3 mmol, 9.08 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | iodomethylcyclopentane | 53.2 mmol, 11.17 g | ICC1CCCC1 | C6H11I
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 20 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 10 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid | 10.28 g, 81% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
